US08242133B2
To a mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole and 3 ml of 2-propanol, 52 mg of 60% sodium hydride (in oil) was added while ice-cooling. The mixture was stirred for 1.5 hours and then heated to room temperature and stirred for 1.5 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.12 g of 2-(3-isopropoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 70”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | 2-propanol | 3 ml | CC(C)O | C3H8O
reactant | sodium hydride | 52 mg | [H-].[Na+]
solvent | Water | O | H2O
product | 2-(3-isopropoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.12 g | C(C)(C)OC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C16H13F3N2O2
